US08067409B2
2-fluoro-N-(3-(5-(2-((3-(2-morpholin-4-ylethyl)phenyl)amino)pyrimidin-4-yl)imidazo[2,1-b][1,3]thiazol-6-yl)phenyl)benzamide
The title compound was prepared as described in EXAMPLE 297, with the following substitutions: 4-(6-(3-aminophenyl)imidazo[2,1-b]thiazol-5-yl)-N-(3-(2-morpholinoethyl)phenyl)pyrimidin-2-amine for 4-(6-(3-aminophenyl)imidazo[2,1-b]thiazol-5-yl)-N-(3-(3-morpholinopropoxy)phenyl)pyrimidin-2-amine and 2-fluorobenzoyl chloride for 2,6-difluorobenzoyl chloride. (ESI(+)) m/e 620 (M+H)+; (ESI(−)) m/e 618 (M−H)−; 1H-NMR (300 MHz, DMSO-d6) □ 10.54 (s, 1H), 9.62 (s, 1H), 8.81 (d, 1H), 8.29 (d, 1H), 8.03 (s, 1H), 7.84 (d, 1H), 7.67 (td, 1H), 7.53-7.62 (m, 3H), 7.50 (d, 1H), 7.42-7.48 (m, 1H), 7.30-7.40 (m, 3H), 7.22 (t, 1H), 6.87 (d, 1H), 6.63 (d, 1H), 3.52-3.59 (m, 4H), 3.17 (d, 1H), 3.66-3.77 (m, 2H), 2.51-2.55 (m, 1H), 2.37-2.43 (m, 4H).

reactant | 4-(6-(3-aminophenyl)imidazo[2,1-b]thiazol-5-yl)-N-(3-(2-morpholinoethyl)phenyl)pyrimidin-2-amine | NC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1=CC(=CC=C1)CCN1CCOCC1 | C27H27N7OS
reactant | 4-(6-(3-aminophenyl)imidazo[2,1-b]thiazol-5-yl)-N-(3-(3-morpholinopropoxy)phenyl)pyrimidin-2-amine | NC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1=CC(=CC=C1)OCCCN1CCOCC1 | C28H29N7O2S
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 2,6-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
product | 2-fluoro-N-(3-(5-(2-((3-(2-morpholin-4-ylethyl)phenyl)amino)pyrimidin-4-yl)imidazo[2,1-b][1,3]thiazol-6-yl)phenyl)benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)C=2N=C3SC=CN3C2C2=NC(=NC=C2)NC2=CC(=CC=C2)CCN2CCOCC2)C=CC=C1 | C34H30FN7O2S
